US06821967B2
b. 2-(2-methyl-piperazin-1-yl)-quinoline
A solution of 0.15 g (0.458 mmol) of tert.butyl 3-methyl-4-quinolin-2-yl-piperazine-1-carboxylate in 1 ml of trifluoroacetic acid and 20 ml of dichloromethane is stirred for ten hours at ambient temperature. Then the solution is concentrated by evaporation, the residue is taken up in water and made alkaline with dilute sodium hydroxide solution. The aqueous phase is extracted with dichloromethane and the organic phase is dried over sodium sulphate.

reactant | tert.butyl 3-methyl-4-quinolin-2-yl-piperazine-1-carboxylate | 0.458 mmol, 0.15 g | CC1CN(CCN1C1=NC2=CC=CC=C2C=C1)C(=O)OC(C)(C)C | C19H25N3O2
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(2-methyl-piperazin-1-yl)-quinoline | CC1N(CCNC1)C1=NC2=CC=CC=C2C=C1 | C14H17N3
